US07153848B2
Methyl 3-cyclohexyl-1-(5-methoxy-5-oxopentyl)-1H-indole-6-carboxylate
Methyl 3-cyclohexyl-1H-indole-6-carboxylate (500 mg, 1.94 mmol) was added to a suspension of NaH (85.5 mg of 60% dispersion in mineral oil, 2.14 mmol) in DMF (5 mL), and the reaction mixture stirred at RT for 15 min. Methyl 5-bromovalerate (0.305 mL, 2.14 mmol) was then added and the reaction mixture stirred at RT overnight, after which the reaction was quenched with ice and extracted with ethyl acetate (2×50 mL). The extracts were then combined, washed with 1N HCl solution, dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by silica gel flash chromatography using hexanes to 25% ethyl acetate in hexanes as eluant to give the title compound as a colorless thick oil (0.41 g, 57% yield). MS m/z 372(MH+). 1H NMR (300 MHz, CDCl3) □ ppm 1.23 (m, 1 H) 1.35–1.48 (m, 5 H) 1.62 (m, 2 H) 1.69–1.89 (m, 6 H) 2.03 (m, 2 H) 2.29 (t, J=7.32 Hz, 2 H) 2.78 (m, 1 H) 3.62 (s, 3 H) 3.90 (s, 3 H) 4.11 (t, J=6.95 Hz, 2 H) 6.97 (s, 1 H) 7.60 (d, J=8.42 Hz, 1 H) 7.72 (d, J=9.51 Hz, 1 H) 8.00 (s, 1 H).

reactant | Methyl 3-cyclohexyl-1H-indole-6-carboxylate | 1.94 mmol, 500 mg | C1(CCCCC1)C1=CNC2=CC(=CC=C12)C(=O)OC | C16H19NO2
reactant | NaH | 2.14 mmol, 85.5 mg | [H-].[Na+]
reactant | Methyl 5-bromovalerate | 2.14 mmol, 0.305 mL | BrCCCCC(=O)OC | C6H11BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Methyl 3-cyclohexyl-1-(5-methoxy-5-oxopentyl)-1H-indole-6-carboxylate | 0.41 g, 57% yield | C1(CCCCC1)C1=CN(C2=CC(=CC=C12)C(=O)OC)CCCCC(=O)OC | C22H29NO4
